US08491906B2
Mercaptoacetyl glycyl glycine
26.32 g (75.09 mmol) Carboxy methyl-t-butyl disulfide glycyl glycine t-butyl ester were dissolved in 233 ml TFA under N2-atmosphere. The resulting solution was stirred for 20 min at room temperature. TFA was evaporated under reduced pressure (5-10×10−2 mbar) and the resulting oil was dried under stirring for additional 2 h (5-10×10−2 mbar). After addition of 250 ml Et2O a white powder precipitated and the suspension was stirred for 3 h. The material was filtered off and resuspended in 100 ml Et2O. The resulting suspension was stirred over night, the product was filtered off and the material was dried at room temperature under reduced pressure yielding 20.46 g (92.5%) as a white powder.

reactant | Carboxy methyl-t-butyl disulfide glycyl glycine t-butyl ester | 75.09 mmol, 26.32 g | C(C)(C)(C)OC(CNC(CN)=O)=O.CCC(C)(C)SSC(=O)O
reactant | TFA | 233 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Mercaptoacetyl glycyl glycine | SCC(=O)NCC(=O)NCC(=O)O | C6H10N2O4S
